US07777047B2
ethyl 6-chloro-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate
A mixture of ethyl 6-chloro-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate (1.00 g), methyl iodide (0.17 ml), potassium carbonate (0.36 g) and N,N-dimethylformamide (10 ml) was stirred overnight at room temperature. Water was added to the reaction mixture, and the resulting crystals were collected by filtration, washed with water, and dried. The obtained crystals were subjected to basic silica gel column chromatography to give the title compound (0.80 g, yield 77%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:2, volume ratio). melting point 156-157° C.

reactant | ethyl 6-chloro-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate | 1.00 g | ClC1=CC=C2C=C(NC2=C1NS(=O)(=O)C=1SC=CC1)C(=O)OCC | C15H13ClN2O4S2
reactant | methyl iodide | 0.17 ml | CI | CH3I
reactant | potassium carbonate | 0.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl 6-chloro-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate | 0.80 g, yield 77% | ClC1=CC=C2C=C(NC2=C1N(S(=O)(=O)C=1SC=CC1)C)C(=O)OCC | C16H15ClN2O4S2
